US07632832B2
Step A. Benzyl 4-[allyl(tert-butoxycarbonyl)amino]piperidine-1-carboxylate
Sodium triacetoxyborohydride (5.45 g, 25.72 mmol) was added to a solution of N-benzyloxycarbonyl-4-piperidone (5.0 g, 21.43 mmol), allylamine (1.77 mL, 23.58 mmol), and acetic acid (1.35 mL, 23.581 mmol) in dichloroethane (100 mL). After 1 h, the reaction was quenched with saturated sodium bicarbonate solution and extracted with dichloromethane (2×). The combined organics were washed with saturated potassium sodium tartrate solution, brine, dried over sodium sulfate, filtered, and concentrated. Di-tert-butyl dicarbonate (4.91 mg, 22.51 mmol) was then added to the crude amine and the mixture was heated at 55° C. for 30 min. The reaction was concentrated to give the title compound (8.75 g). MS 275.3 (M+1-boc group)

reactant | Sodium triacetoxyborohydride | 25.72 mmol, 5.45 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-benzyloxycarbonyl-4-piperidone | 21.43 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | allylamine | 23.58 mmol, 1.77 mL | C(C=C)N | C3H7N
reactant | acetic acid | 23.581 mmol, 1.35 mL | C(C)(=O)O | C2H4O2
reactant | Di-tert-butyl dicarbonate | 22.51 mmol, 4.91 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | Benzyl 4-[allyl(tert-butoxycarbonyl)amino]piperidine-1-carboxylate | 8.75 g | C(C=C)N(C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H30N2O4
